US07884127B2
1-methyl-4-piperidone (340 g, 3.0 mol) was added slowly, to a solution of 1,3,5-trimethoxybenzene (500 g, 2.97 mol) in glacial acetic acid (600 mL), maintaining the temperature of the reaction mixture below 40° C. Conc. HCl (450 mL) was added over 20 min. The temperature was raised to 85-90° C. and the reaction mixture was stirred for 3.5 h. It was allowed to cool to 40° C., poured over crushed ice (4 kg) and stirred for 20 min. The precipitate of unreacted 1,3,5-trimethoxybenzene was filtered off. The filtrate was basified, below 10° C., to pH 11-12 using a 50% aqueous NaOH solution. The off white solid obtained was filtered, washed with water and dried to obtain the compound, 1-Methyl-4-(2,4,6-trimethoxy-phenyl)-1,2,3,6-tetrahydro-pyridine.

reactant | 1-methyl-4-piperidone | 3.0 mol, 340 g | CN1CCC(CC1)=O | C6H11NO
reactant | 1,3,5-trimethoxybenzene | 2.97 mol, 500 g | COC1=CC(=CC(=C1)OC)OC | C9H12O3
reactant | HCl | 450 mL | Cl | ClH
solvent | acetic acid | 600 mL | C(C)(=O)O | C2H4O2
product | 1-Methyl-4-(2,4,6-trimethoxy-phenyl)-1,2,3,6-tetrahydro-pyridine | CN1CCC(=CC1)C1=C(C=C(C=C1OC)OC)OC | C15H21NO3
